US09145433B2
6-(2-Chloropyridin-3-yl)benzo[d]thiazole was prepared analogous to 5-(2-chloropyridin-3-yl)-1H-indazole by heating the mixture of 6-bromobenzo[d]thiazole (2.0 g, 9.3 mmol), 2-chloro-3-pyridine boronic acid pinacol ester (2.7 g, 11.2 mmol), Pd(PPh3)4 (500 mg, 0.43 mmol) and 2M aq.Na2CO3 (14 mL, 28 mmol) in 1,4-dioxane (100 mL). The reaction mixture was concentrated at the completion of the reaction (12 h) and diluted with CH2Cl2 (200 mL/100 mL). Mixed organic layers were stirred with MgSO4 and Celite® for 30 min. The slurry was suction filtered and concentrated by rotary evaporator under vacuum. The crude concentrate was dissolved in CH2Cl2, adsorbed on silica gel and dried. The dry powder thus obtained was purified by silica gel flash column chromatography (Combiflash® companion System® with RediSep® silica gel column 40 g, 30-70% EtOAC/hexanes eluting solvent gradient). 6-(2-chloropyridin-3-yl)benzo[d]thiazole (1.9 g, 82%) was obtained as a white solid upon concentration of the product fractions. 1H NMR (DMSO-d6): δ 9.46 (s, 1H), 8.46 (dd, 1H, J=1.7 and 4.7 Hz), 8.30 (d, 1H, J=1.4 Hz), 8.17 (d, 1H, J=8.2 Hz), 7.96 (dd, 1H, J=1.7 and 7.6 Hz), 7.63 (dd, 1H, J=1.4 and 8.5 Hz), 7.53 (dd, 1H, J=4.7 and 7.6 Hz). LCMS: rt 6.71 min (A), purity 99%, MS (m/e) 247.

reactant | 5-(2-chloropyridin-3-yl)-1H-indazole | ClC1=NC=CC=C1C=1C=C2C=NNC2=CC1 | C12H8ClN3
reactant | 6-bromobenzo[d]thiazole | 9.3 mmol, 2.0 g | BrC1=CC2=C(N=CS2)C=C1 | C7H4BrNS
reactant | 2-chloro-3-pyridine boronic acid pinacol ester | 11.2 mmol, 2.7 g | ClC1=NC=CC=C1B1OC(C)(C)C(C)(C)O1 | C11H15BClNO2
reactant | Na2CO3 | 28 mmol, 14 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.43 mmol, 500 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(2-chloropyridin-3-yl)benzo[d]thiazole | 1.9 g, 82% | ClC1=NC=CC=C1C1=CC2=C(N=CS2)C=C1 | C12H7ClN2S
